US08071776B2
3-Amino-5-chloro-6-[2-(2-hydroxy-ethyamino)-ethoxy]-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of diethanolamine (1.097 g, 10.43 mmol) in THF (3 ml) at room temperature is added dropwise a solution of lithium bis(trimethylsilyl)amide (1.0 M in hexanes)(3.50 ml, 3.50 mmol). The reaction mixture is stirred for 15 minutes and then is treated with 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (0.345 g, 1.00 mmol). The reaction mixture is heated at 75° C. for 1 hour, cooled to room temperature, and then quenched by the addition of water (15 ml). Ice is added to the reaction mixture and, while stirring, a yellow precipitate is formed. This solid is collected by filtration and placed in the vacuum oven to dry (60° C. for 16 hours). This affords the title compound as a yellow solid (0.216 g, 56%). Mass (m/z): 385.2 (M++1), 383.1 (M+−1).

reactant | diethanolamine | 10.43 mmol, 1.097 g | N(CCO)CCO | C4H11NO2
reactant | lithium bis(trimethylsilyl)amide | 3.50 mmol, 1.0 M, 3.50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 1.00 mmol, 0.345 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-Amino-5-chloro-6-[2-(2-hydroxy-ethyamino)-ethoxy]-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.216 g, 56% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCCNCCO)S1)N | C16H21ClN4O3S
